US07202367B2
Preparation of 1-phenyl-3-trifluoromethyl-5-(p-tolyl)-1H-pyrazole
This compound was isolated by silica gel chromatography following arylation of 3-trifluoromethyl-5-(p-tolyl)-1H pyrazole using iodobenzene as described in Example 1.1.

reactant | 3-trifluoromethyl-5-(p-tolyl)-1H pyrazole | FC(C1=NNC(=C1)C1=CC=C(C=C1)C)(F)F | C11H9F3N2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-phenyl-3-trifluoromethyl-5-(p-tolyl)-1H-pyrazole | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F | C17H13F3N2
